US09167821B2
To a solution of [3,5-bis-(difluoromethyl)-1H-pyrazol-1-yl]acetic acid (58 mg) in dichloromethane (20 ml) were added, at 0° C., oxalyl chloride (94.5 mg) and one drop of N,N-dimethylformamide. The reaction mixture was stirred at room temperature for 2 hours. The solvent and the excess reagent were removed under reduced pressure. The solid residue was again dissolved in dichloromethane (5 ml) and, at 0° C., added dropwise to a solution of 4-{4-[5-(2-fluoro-6-formylphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidinium chloride and triethylamine (5.0 eq.) in dichloromethane (15 ml). The reaction mixture was stirred at room temperature overnight. Then it was admixed with concentrated sodium hydrogencarbonate solution, and the aqueous phase was removed and extracted with ethyl acetate. The combined organic phases were dried over sodium sulphate and concentrated. Purification by column chromatography gave 2-{3-[2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}-3-fluorobenzaldehyde (55 mg).

reactant | [3,5-bis-(difluoromethyl)-1H-pyrazol-1-yl]acetic acid | 58 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)O)F | C7H6F4N2O2
reactant | oxalyl chloride | 94.5 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-{4-[5-(2-fluoro-6-formylphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidinium chloride | [Cl-].FC1=C(C(=CC=C1)C=O)C1CC(=NO1)C=1N=C(SC1)C1CC[NH2+]CC1
reactant | triethylamine | 5.0 eq. | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-{3-[2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}-3-fluorobenzaldehyde | 55 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=O)C=CC=C1F)F | C25H22F5N5O3S
